US08236806B2
2-methyl-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine (Compound 152)
68 mg (45%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal (80 mg, 0.330 mmol), 2-methyl-1-m-tolylpiperazine (63 mg, 0.330 mmol), DIPEA (0.090 mL, 0.495 mmol) and NaBH(OAc)3 (210 mg, 0.990 mmol).

reactant | 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal | 0.330 mmol, 80 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC)CCC=O | C15H18N2O
reactant | 2-methyl-1-m-tolylpiperazine | 0.330 mmol, 63 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.495 mmol, 0.090 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.990 mmol, 210 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-methyl-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine | CC1N(CCN(C1)CCCC1=NN(C(=C1)CCC)C1=CC=CC=C1)C=1C=C(C=CC1)C | C27H36N4
